US06051722
In an atmosphere of argon, 19.5 g (107.0 mmols) of 2'-hydroxy-2-(methylsulfinyl)acetophenone, 5.65 g (3.4 equivalent) of acetaldehyde and 5.0 ml (0.05 equivalent) of piperidine were dissolved in 500 ml of toluene, and the mixture obtained was refluxed with heating for 1 hour and 45 minutes. The reaction solution was cooled to room temperature and concentrated under reduced pressure to remove the toluene. The residue thus obtained was dissolved in 300 ml of ethyl acetate and washed twice with 200 ml of water. The organic layer thus formed was dried with anhydrous sodium sulfate, followed by concentration under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (developing system: hexane/ethyl acetate=4/6) to obtain 14.7 g of 2-methylchromone (yield: 86%; a pale-white pink solid). 1H-NMR Spectrum [δ(ppm)]: 2.39(s, 3H), 6.17(s, 1H), 7.37(m, 2H), 7.64(dt, 1H, J=1.7 Hz, 8.1 Hz), 8.18(dd, 1H, J=1.7 Hz, 8.1 Hz)

reactant | 2'-hydroxy-2-(methylsulfinyl)acetophenone | 107.0 mmols, 19.5 g | OC1=C(C=CC=C1)C(CS(=O)C)=O | C9H10O3S
reactant | acetaldehyde | 5.65 g, 3.4 equivalent | C(C)=O | C2H4O
reactant | piperidine | 5.0 ml, 0.05 equivalent | N1CCCCC1 | C5H11N
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 2-methylchromone | 14.7 g, yield: 86% | CC=1OC2=CC=CC=C2C(C1)=O | C10H8O2
